US07947718B2
3-(4-Piperidin-1-yl-but-1-ynyl)-5-piperidin-1-ylmethyl-pyridine
5-Bromo-pyridine-3-carbaldehyde. (5-Bromo-pyridin-3-yl)-methanol (1.13 g, 6.00 mmol) was dissolved in CHCl3 (40 mL) and treated with MnO2 (3.60 g). The reaction mixture was heated at reflux temperature for 3 h. The hot reaction mixture was filtered through a pad of diatomaceous earth and the filtrate was concentrated to yield the title compound (0.570 g, 51%).

reactant | 5-Bromo-pyridine-3-carbaldehyde | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | (5-Bromo-pyridin-3-yl)-methanol | 6.00 mmol, 1.13 g | BrC=1C=C(C=NC1)CO | C6H6BrNO
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 3.60 g | O=[Mn]=O
product | 3-(4-Piperidin-1-yl-but-1-ynyl)-5-piperidin-1-ylmethyl-pyridine | 0.570 g, 51% | N1(CCCCC1)CCC#CC=1C=NC=C(C1)CN1CCCCC1 | C20H29N3
